US06013658
{(1R)-1-{(1R)-1-(3-Methyl-[1,2,4]oxadiazol-5-yl)-2-phenylethylcarbamoyl}-2-(2-naphthyl)ethyl}carbamic acid tertbutyl ester (4.5 g, 8.99 mmol) was suspended in ethyl acetate (50 ml) and a saturated mixture of hydrogen chloride in ethyl acetate (45 ml) was added. After 3 h at 20° C., the reaction mixture was filtered to give 3.17 g of (2R)-2-amino-N-[(1R)-1-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-phenylethyl]-3-(2-naphthyl)propionamide hydrochloride.

reactant | {(1R)-1-{(1R)-1-(3-Methyl-[1,2,4]oxadiazol-5-yl)-2-phenylethylcarbamoyl}-2-(2-naphthyl)ethyl}carbamic acid tertbutyl ester | 8.99 mmol, 4.5 g | C(C)(C)(C)OC(N[C@H](CC1=CC2=CC=CC=C2C=C1)C(N[C@H](CC1=CC=CC=C1)C1=NC(=NO1)C)=O)=O | C29H32N4O4
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 45 ml | C(C)(=O)OCC | C4H8O2
product | (2R)-2-amino-N-[(1R)-1-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-phenylethyl]-3-(2-naphthyl)propionamide hydrochloride | 3.17 g | Cl.N[C@@H](C(=O)N[C@H](CC1=CC=CC=C1)C1=NC(=NO1)C)CC1=CC2=CC=CC=C2C=C1 | InChI=1S/C24H24N4O2.ClH/c1-16-26-24(30-28-16)22(15-17-7-3-2-4-8-17)27-23(29)21(25)14-18-11-12-19-9-5-6-10-20(19)13-18;/h2-13,21-22H,14-15,25H2,1H3,(H,27,29);1H/t21-,22-;/m1./s1
